US05488135
Under argon atmosphere 240 mg of 2,5-dimethoxyphenylacetylene and 493 mg of methyl 5-iodosalicylate are dissolved in 20 ml of oxygen-free and dry benzene. The mixture is treated with 85 mg of tetrakis (triphenylphosphine)palladium, 20 mg of copper(I)iodide and 450 mg of triethylamine, stirred at room temperature overnight and then poured onto 100 ml of aqueous pH 7 buffer. After extraction with ethyl acetate and purification by chromatography on silicagel, 5-[2-(2,5-dimethoxyphenyl)ethinyl]-2-hydroxybenzoic acid methyl ester is obtained (colorless crystals of M.P. 105°-108°).

reactant | 2,5-dimethoxyphenylacetylene | 240 mg | COC1=C(C=C(C=C1)OC)C#C | C10H10O2
reactant | methyl 5-iodosalicylate | 493 mg | IC1=CC=C(C(C(=O)OC)=C1)O | C8H7IO3
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | triethylamine | 450 mg | C(C)N(CC)CC | C6H15N
solvent | oxygen | 20 ml | O=O | O2
catalyst | copper(I)iodide | 20 mg | [Cu]I
product | 5-[2-(2,5-dimethoxyphenyl)ethinyl]-2-hydroxybenzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#CC1=C(C=CC(=C1)OC)OC)O)=O | C18H16O5
